US07618960B2
Synthesis of 2,6-difluoronicotinic acid
A solution of n-butyl lithium in THF (2.62 M, 29.1 mL) was added dropwise to a solution of diisopropylamine (11.7 mL) in tetrahydrofuran (310 mL) under ice-cooling in a nitrogen atmosphere. The reaction solution was stirred under ice-cooling for one hour and then cooled to −78° C. A solution of 2,6-difluoropyridine (8 g) in tetrahydrofuran (10 mL) was added dropwise to the reaction solution. The reaction solution was stirred at −0.78° C. for three hours. Then, an excess amount of crushed dry ice was added in a nitrogen stream, and the reaction solution was stirred at −78° C. for 20 minutes and at room temperature for three hours. Water and diethyl ether were added to the reaction solution, and the aqueous layer was separated. The aqueous layer was adjusted to pH 1 by concentrated hydrochloric acid. Ethyl acetate was added to the aqueous layer, and the organic layer was separated. The organic layer was dried over anhydrous magnesium sulfate, and the solvent was evaporated under reduced pressure to obtain 10.4 g of the title compound.

reactant | n-butyl lithium | C(CCC)[Li]
reactant | diisopropylamine | 11.7 mL | C(C)(C)NC(C)C | C6H15N
reactant | 2,6-difluoropyridine | 8 g | FC1=NC(=CC=C1)F | C5H3F2N
reactant | dry ice | C(=O)=O | CO2
solvent | THF | 2.62 M, 29.1 mL | C1CCOC1 | C4H8O
solvent | tetrahydrofuran | 310 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
solvent | diethyl ether | C(C)OCC | C4H10O
solvent | Water | O | H2O
product | 2,6-difluoronicotinic acid | 10.4 g | FC1=C(C(=O)O)C=CC(=N1)F | C6H3F2NO2
